US07820658B2
2-Amino-4-(2-methyl-5-propylaminomethyl-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethylamide
Methanol (5 mL) was added to 2-Amino-4-(5-formyl-2-methyl-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (100 mg, 0.29 mmol) and propylamine (0.586 mmol) then added to resulting suspension. Reaction mixture was heated to reflux (affording homogeneous brown solution) for 4 hours then allowed to cool to ambient temperature. Sodium borohydride (23 mg; 0.58 mmol) was added and reaction mixture stirred for 30 mins. Methanol was removed in vacuo and the residue was partitioned between water (20 mL) and ethyl acetate (20 mL). The phases were separated and organic phase was dried over Na2SO4 and filtered, and filtrate solvents removed in vacuo to afford brown solid which was suspended 2.0M ethylamine in methanol solution (5.0 mL, 10 mmol) and heated in sealed tube at 85 degrees C. overnight. Reaction mixture was allowed to cool and solvents removed in vacuo to afford a brown solid which was triturated in hot ethyl acetate, filtered and dried to afford title product as light-brown solid (50 mg, 45%)

reactant | 2-Amino-4-(5-formyl-2-methyl-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.29 mmol, 100 mg | C(C)OC(=O)C1=CC2=C(N=C(N=C2C2=C(C=CC(=C2)C=O)C)N)S1 | C17H15N3O3S
reactant | propylamine | 0.586 mmol | C(CC)N | C3H9N
reactant | Sodium borohydride | 0.58 mmol, 23 mg | [BH4-].[Na+]
reactant | ethylamine | 2.0M | C(C)N | C2H7N
solvent | Methanol | 5 mL | CO | CH4O
solvent | methanol | 10 mmol, 5.0 mL | CO | CH4O
product | 2-Amino-4-(2-methyl-5-propylaminomethyl-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethylamide | 50 mg, 45% | C(C)NC(=O)C1=CC2=C(N=C(N=C2C2=C(C=CC(=C2)CNCCC)C)N)S1 | C20H25N5OS
